US08580799B2
To a solution of 2-{[2-(hex-1-yn-1-yl)-1,3-thiazol-4-yl]methoxy}-1H-isoindole-1,3(2H)-dione (13.6 g, 40.1 mmol) in tetrahydrofuran (250 mL) was added methylhydrazine (3.69 g, 80.1 mmol) dropwise. After stirring 20 h at room temperature, the reaction mixture was concentrated in vacuo, diluted with ethyl acetate, washed with water and the organic layer drid (MgSO4) and concentrated in vacuo. Purification on silica gel afforded 4-[(aminooxy)methyl]-2-(hex-1-yn-1-yl)-1,3-thiazole as a colourless oil [8.15 g, yield 94%; HPLC/MS: m/z=211 (M+H); log P(HCOOH)=1.76].

reactant | 2-{[2-(hex-1-yn-1-yl)-1,3-thiazol-4-yl]methoxy}-1H-isoindole-1,3(2H)-dione | 40.1 mmol, 13.6 g | C(#CCCCC)C=1SC=C(N1)CON1C(C2=CC=CC=C2C1=O)=O | C18H16N2O3S
reactant | methylhydrazine | 80.1 mmol, 3.69 g | CNN | CH6N2
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 4-[(aminooxy)methyl]-2-(hex-1-yn-1-yl)-1,3-thiazole | yield 94% | NOCC=1N=C(SC1)C#CCCCC | C10H14N2OS
